US06939885B2
Synthesis of 3-{4-[4-Chloro-2-(6-methyl-pyridine-3-carbonyl)-phenylsulfamoyl]-phenyl}-propionic acid methyl ester
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using (2-Amino-5-chloro-phenyl)-(6-methyl-pyridin-3-yl)-methanone and 3-(4-Chlorosulfonyl-phenyl)-propionic acid methyl ester and purified by HPLC. 1H NMR (CDCl3) δ 9.66 (br s, 1H, NH), 8.34 (d, 1H, J=2.2 Hz), 7.75 (d, 1H, J=8.8 Hz), 7.72 (d, 1H, J=8.0 Hz, J=2.2 Hz), 7.56 (d, 2H, J=8.4 Hz), 7.51 (dd, 1H, J=8.8 Hz, J=2.2 Hz), 7.32 (d 1H, J=2.2 Hz), 7.26 (d, 1H, J=7 Hz), 7.09 (d, 2H, J=8.4 Hz), 3.65 (s, 3H), 2.97 (t, 2H, J=7.6 Hz), 2.66 (s, 3H), 2.51 (t, 2H, J=7.6 Hz). MS: m/z 473 (M+1).

reactant | (2-Amino-5-chloro-phenyl)-(6-methyl-pyridin-3-yl)-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C=1C=NC(=CC1)C | C13H11ClN2O
reactant | 3-(4-Chlorosulfonyl-phenyl)-propionic acid methyl ester | COC(CCC1=CC=C(C=C1)S(=O)(=O)Cl)=O | C10H11ClO4S
product | 3-{4-[4-Chloro-2-(6-methyl-pyridine-3-carbonyl)-phenylsulfamoyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC=C(C=C1)S(NC1=C(C=C(C=C1)Cl)C(=O)C=1C=NC(=CC1)C)(=O)=O)=O | C23H21ClN2O5S
